US04882447
Diethyl 2-[(hydroxyacetyl)amino]malonate (0.56 g) is dissolved in 1N aqueous sodium hydroxide (5 ml), and the mixture is reacted at room temperature for 10 hours, and thereafter, the reaction mixture is concentrated under reduced pressure. The residue is washed with methanol to give disodium 2-[(hydroxyacetyl)amino]malonate (0.51 g).

reactant | Diethyl 2-[(hydroxyacetyl)amino]malonate | 0.56 g | OCC(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO6
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
product | disodium 2-[(hydroxyacetyl)amino]malonate | 0.51 g | OCC(=O)NC(C(=O)[O-])C(=O)[O-].[Na+].[Na+] | InChI=1S/C5H7NO6.2Na/c7-1-2(8)6-3(4(9)10)5(11)12;;/h3,7H,1H2,(H,6,8)(H,9,10)(H,11,12);;/q;2*+1/p-2
